US07595327B2
(3S,4R)-1-Acetyl-N-tert-butoxy-3-methyl-4-(4-((2-methylquinolin-4-yl)methoxy)phenylsulfonamido)piperidine-3-carboxamide (326 mg, 0.559 mmol) was dissolved in trifluoroacetic acid (5 mL) and heated at 40° C. overnight. The solvent was concentrated and the residual oil was treated with saturated aqueous NaHCO3 and extracted with ethyl acetate (3×). The combined organic extracts were dried over Na2SO4, then purified via column chromatography on silica gel eluting with 5% MeOH/CH2Cl2 to give (3S,4R)-1-acetyl-N-hydroxy-3-methyl-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]piperidine-3-carboxamide (70 mg, 0.133 mmol, 24%) as a colorless solid. LCMS (M−H): 1.58 min, 525.4; 1H NMR (400 MHz, MeOD) δ ppm 0.97 (s, 2H) 1.09-1.20 (m, 4H) 1.44 (d, J=13.14 Hz, 1H) 1.65-1.75 (m, 1H) 1.90-1.97 (m, 5H) 2.55 (d, J=14.40 Hz, 2H) 2.60-2.64 (m, 4H) 2.93-3.03 (m, 1H) 3.05-3.16 (m, 2H) 3.67 (s, 1H) 5.58 (s, 3H) 7.16 (d, J=9.09 Hz, 3H) 7.46-7.54 (m, 3H) 7.62-7.69 (m, 2H) 7.78 (dd, J=8.97, 2.15 Hz, 3H) 7.90 (d, J=8.59 Hz, 2H) 7.99 (d, J=8.08 Hz, 2H).

reactant | (3S,4R)-1-Acetyl-N-tert-butoxy-3-methyl-4-(4-((2-methylquinolin-4-yl)methoxy)phenylsulfonamido)piperidine-3-carboxamide | 0.559 mmol, 326 mg | C(C)(=O)N1C[C@@]([C@@H](CC1)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)(C(=O)NOC(C)(C)C)C | C30H38N4O6S
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (3S,4R)-1-acetyl-N-hydroxy-3-methyl-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]piperidine-3-carboxamide | 0.133 mmol, 70 mg, 24% | C(C)(=O)N1C[C@@]([C@@H](CC1)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)(C(=O)NO)C | C26H30N4O6S
